* File: G3_OR2_N3.pex.netlist.pex
* Created: Tue Mar  1 12:18:46 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_OR2_N3_VSS 2 4 6 8 10 12 28 29 38 44 49 52 57 62 67 76 85 90 91 95
+ 96 101 107 114 115 116 Vss
c71 116 Vss 3.91906e-19
c72 115 Vss 3.75522e-19
c73 107 Vss 0.00372185f
c74 101 Vss 0.00290457f
c75 96 Vss 8.35017e-19
c76 95 Vss 0.00178035f
c77 91 Vss 6.20207e-19
c78 90 Vss 0.00579798f
c79 85 Vss 0.0039758f
c80 76 Vss 0.0050462f
c81 67 Vss 5.89061e-19
c82 62 Vss 8.97934e-19
c83 57 Vss 0.00103095f
c84 52 Vss 0.00124124f
c85 49 Vss 0.00687623f
c86 44 Vss 0.00812495f
c87 38 Vss 0.0895788f
c88 29 Vss 0.0349332f
c89 28 Vss 0.0997249f
c90 12 Vss 0.190073f
c91 10 Vss 0.189045f
c92 8 Vss 0.00143493f
c93 4 Vss 0.189407f
r94 109 114 0.458464
r95 108 116 0.494161
r96 107 109 0.652036
r97 107 108 7.46046
r98 103 116 0.128424
r99 102 115 0.494161
r100 101 116 0.494161
r101 101 102 7.46046
r102 97 115 0.128424
r103 95 115 0.494161
r104 95 96 4.37625
r105 90 96 0.652036
r106 89 91 0.655813
r107 89 90 18.3386
r108 67 85 1.16709
r109 67 114 1.70882
r110 62 103 6.16843
r111 57 76 1.16709
r112 57 97 2.16729
r113 52 91 1.82344
r114 49 62 1.16709
r115 44 52 1.16709
r116 36 76 0.0476429
r117 36 38 2.04225
r118 31 85 0.0476429
r119 29 31 1.45875
r120 28 32 0.652036
r121 28 31 1.45875
r122 25 29 0.652036
r123 22 38 0.0685365
r124 12 32 5.1348
r125 10 25 5.1348
r126 8 49 0.123773
r127 6 49 0.123773
r128 4 22 5.1348
r129 2 44 0.123773
.ends

.subckt PM_G3_OR2_N3_VDD 2 4 6 8 10 12 14 16 37 46 56 62 67 70 72 73 77 79 80 83
+ 87 89 93 95 97 102 103 104 105 107 113 119 124 Vss
c78 124 Vss 0.00450608f
c79 119 Vss 0.00587228f
c80 113 Vss 0.00493107f
c81 105 Vss 2.39889e-19
c82 104 Vss 2.39889e-19
c83 103 Vss 4.52364e-19
c84 102 Vss 0.00430335f
c85 101 Vss 0.00170674f
c86 97 Vss 0.00160078f
c87 95 Vss 0.00854117f
c88 93 Vss 7.28478e-19
c89 89 Vss 0.00205766f
c90 87 Vss 4.80319e-19
c91 83 Vss 0.00133062f
c92 80 Vss 8.68835e-19
c93 79 Vss 0.00561215f
c94 77 Vss 0.0017471f
c95 74 Vss 0.00174847f
c96 73 Vss 0.00498635f
c97 72 Vss 0.00313638f
c98 70 Vss 0.0119561f
c99 67 Vss 0.0100342f
c100 62 Vss 0.00818522f
c101 57 Vss 0.129193f
c102 56 Vss 7.73513e-20
c103 47 Vss 0.035874f
c104 46 Vss 0.101312f
c105 37 Vss 0.0356247f
c106 36 Vss 0.101564f
c107 14 Vss 0.189069f
c108 12 Vss 0.189513f
c109 10 Vss 0.189312f
c110 8 Vss 0.189362f
c111 4 Vss 0.191197f
c112 2 Vss 0.192293f
r113 113 116 0.05
r114 101 107 0.349767
r115 101 102 5.50157
r116 97 107 0.306046
r117 97 99 1.82344
r118 96 105 0.494161
r119 95 102 0.652036
r120 95 96 10.1279
r121 93 124 1.16709
r122 91 105 0.128424
r123 91 93 2.16729
r124 90 104 0.494161
r125 89 105 0.494161
r126 89 90 4.54296
r127 87 119 1.16709
r128 85 104 0.128424
r129 85 87 2.16729
r130 83 116 1.16709
r131 81 83 2.16729
r132 79 104 0.494161
r133 79 80 10.1696
r134 75 103 0.0828784
r135 75 77 1.82344
r136 73 81 0.652036
r137 73 74 4.37625
r138 72 80 0.652036
r139 71 103 0.551426
r140 71 72 5.50157
r141 70 103 0.551426
r142 69 74 0.652036
r143 69 70 18.2969
r144 67 99 1.16709
r145 62 77 1.16709
r146 56 113 0.0238214
r147 56 57 2.26917
r148 53 56 2.26917
r149 49 124 0.0476429
r150 47 49 1.45875
r151 46 50 0.652036
r152 46 49 1.45875
r153 43 47 0.652036
r154 39 119 0.0476429
r155 37 39 1.5171
r156 36 40 0.652036
r157 36 39 1.4004
r158 33 37 0.652036
r159 30 57 0.00605528
r160 27 53 0.00605528
r161 16 67 0.123773
r162 14 43 5.1348
r163 12 50 5.1348
r164 10 40 5.1348
r165 8 33 5.1348
r166 6 62 0.123773
r167 4 27 5.1348
r168 2 30 5.1348
.ends

.subckt PM_G3_OR2_N3_B 2 4 10 13 18 21 26 31 Vss
c19 31 Vss 0.00192399f
c20 26 Vss 0.00378619f
c21 18 Vss 0.00125219f
c22 13 Vss 0.166574f
c23 10 Vss 7.84101e-20
c24 2 Vss 0.16675f
r25 23 31 1.16709
r26 21 23 2.29232
r27 18 26 1.16709
r28 18 21 2.54239
r29 13 31 0.50025
r30 10 26 0.50025
r31 4 13 4.37625
r32 2 10 4.37625
.ends

.subckt PM_G3_OR2_N3_NET21 2 4 6 8 10 24 27 38 42 45 53 66 70 Vss
c35 70 Vss 0.00748471f
c36 66 Vss 0.00592889f
c37 53 Vss 0.0020112f
c38 45 Vss 0.00308864f
c39 42 Vss 0.00545637f
c40 38 Vss 0.00813452f
c41 27 Vss 8.95828e-20
c42 24 Vss 0.229828f
c43 21 Vss 0.18045f
c44 19 Vss 0.0247918f
c45 10 Vss 0.193588f
c46 6 Vss 0.00143493f
r47 70 74 0.652036
r48 53 66 1.16709
r49 53 74 2.16729
r50 48 70 8.04396
r51 48 50 6.75193
r52 45 48 6.08507
r53 42 50 1.16709
r54 38 45 1.16709
r55 27 66 0.0476429
r56 25 27 0.326018
r57 25 27 0.1167
r58 24 28 0.652036
r59 24 27 6.7686
r60 21 66 0.357321
r61 19 27 0.326018
r62 19 21 0.40845
r63 10 28 5.1348
r64 8 21 4.72635
r65 6 42 0.123773
r66 4 42 0.123773
r67 2 38 0.123773
.ends

.subckt PM_G3_OR2_N3_A 2 4 10 11 14 18 21 Vss
c21 18 Vss 3.08468e-19
c22 14 Vss 0.225307f
c23 11 Vss 0.0348763f
c24 10 Vss 0.278488f
c25 2 Vss 0.253009f
r26 18 27 1.16709
r27 18 21 0.0416786
r28 14 27 0.05
r29 12 14 1.6338
r30 10 12 0.652036
r31 10 11 8.92755
r32 7 11 0.652036
r33 4 14 5.6016
r34 2 7 7.2354
.ends

.subckt PM_G3_OR2_N3_Z 2 4 13 19 Vss
c12 13 Vss 0.00498872f
c13 4 Vss 0.00143493f
r14 16 19 0.0364688
r15 13 16 1.16709
r16 4 13 0.123773
r17 2 13 0.123773
.ends

