* File: G4_XNOR2_N1.pex.netlist.pex
* Created: Wed Mar 16 10:29:55 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XNOR2_N1_VDD 2 5 9 12 16 32 35 42 43 66 68 69 70 73 75 76 79 81 85
+ 89 91 93 98 99 100 103 109 114 Vss
c113 114 Vss 0.00462632f
c114 109 Vss 0.00491723f
c115 101 Vss 8.54719e-19
c116 100 Vss 2.39889e-19
c117 99 Vss 3.56526e-19
c118 98 Vss 0.0049606f
c119 93 Vss 0.00247173f
c120 91 Vss 0.0107823f
c121 89 Vss 0.00155915f
c122 85 Vss 3.94646e-19
c123 81 Vss 0.00431979f
c124 79 Vss 0.00104496f
c125 76 Vss 8.67334e-19
c126 75 Vss 0.00219831f
c127 73 Vss 0.00159894f
c128 70 Vss 8.63261e-19
c129 69 Vss 0.00531705f
c130 68 Vss 0.00645016f
c131 66 Vss 0.00203422f
c132 43 Vss 0.0336444f
c133 42 Vss 0.0994765f
c134 35 Vss 7.78608e-20
c135 33 Vss 0.0348624f
c136 32 Vss 0.0999592f
c137 16 Vss 0.00272748f
c138 12 Vss 0.00264503f
c139 9 Vss 0.165252f
c140 5 Vss 0.165777f
c141 2 Vss 0.00272748f
r142 98 103 0.326018
r143 97 98 4.16786
r144 93 97 0.655813
r145 93 95 1.82344
r146 92 101 0.494161
r147 91 103 0.326018
r148 91 92 13.0037
r149 87 101 0.128424
r150 87 89 4.83471
r151 85 114 1.16709
r152 83 85 2.16729
r153 82 100 0.494161
r154 81 101 0.494161
r155 81 82 7.46046
r156 79 109 1.16709
r157 77 100 0.128424
r158 77 79 2.16729
r159 75 100 0.494161
r160 75 76 4.37625
r161 71 99 0.0828784
r162 71 73 1.82344
r163 69 83 0.652036
r164 69 70 10.1279
r165 68 76 0.652036
r166 67 99 0.551426
r167 67 68 12.1701
r168 66 99 0.551426
r169 65 70 0.652036
r170 65 66 4.16786
r171 45 114 0.238214
r172 43 45 1.45875
r173 42 46 0.652036
r174 42 45 1.45875
r175 39 43 0.652036
r176 35 109 0.238214
r177 33 35 1.45875
r178 32 36 0.652036
r179 32 35 1.45875
r180 29 33 0.652036
r181 16 95 1.16709
r182 12 89 1.16709
r183 9 46 2.5674
r184 9 39 2.5674
r185 5 36 2.5674
r186 5 29 2.5674
r187 2 73 1.16709
.ends

.subckt PM_G4_XNOR2_N1_VSS 3 6 8 11 16 32 33 42 43 66 71 76 81 87 96 101 114 116
+ 117 118 123 124 129 137 142 143 144 146 Vss
c99 144 Vss 3.75522e-19
c100 143 Vss 3.21033e-19
c101 142 Vss 0.00224529f
c102 141 Vss 0.0013489f
c103 137 Vss 0.00215359f
c104 129 Vss 0.0112621f
c105 124 Vss 8.17415e-19
c106 123 Vss 0.00403195f
c107 118 Vss 8.39382e-19
c108 117 Vss 0.00163605f
c109 116 Vss 0.00144702f
c110 114 Vss 0.00415033f
c111 101 Vss 0.00449981f
c112 96 Vss 0.00516182f
c113 87 Vss 7.10513e-22
c114 81 Vss 0.00255515f
c115 76 Vss 9.53239e-19
c116 71 Vss 0.00133653f
c117 66 Vss 0.00143917f
c118 43 Vss 0.033325f
c119 42 Vss 0.0990666f
c120 33 Vss 0.0336725f
c121 32 Vss 0.0976281f
c122 16 Vss 0.00213567f
c123 11 Vss 0.165384f
c124 8 Vss 0.00163738f
c125 6 Vss 0.00213969f
c126 3 Vss 0.166856f
r127 141 146 0.326018
r128 141 142 4.16786
r129 137 142 0.655813
r130 130 144 0.494161
r131 129 146 0.326018
r132 125 144 0.128424
r133 123 133 0.652036
r134 123 124 10.1279
r135 119 143 0.0828784
r136 117 144 0.494161
r137 117 118 4.37625
r138 116 124 0.652036
r139 115 143 0.551426
r140 115 116 4.16786
r141 114 143 0.551426
r142 113 118 0.652036
r143 113 114 12.1701
r144 87 137 1.82344
r145 81 129 13.5872
r146 81 130 8.04396
r147 81 84 5.37654
r148 76 101 1.16709
r149 76 133 2.16729
r150 71 96 1.16709
r151 71 125 2.16729
r152 66 119 1.82344
r153 45 101 0.238214
r154 43 45 1.45875
r155 42 46 0.652036
r156 42 45 1.45875
r157 39 43 0.652036
r158 35 96 0.238214
r159 33 35 1.45875
r160 32 36 0.652036
r161 32 35 1.45875
r162 29 33 0.652036
r163 16 87 1.16709
r164 11 46 2.5674
r165 11 39 2.5674
r166 8 84 1.16709
r167 6 66 1.16709
r168 3 36 2.5674
r169 3 29 2.5674
.ends

.subckt PM_G4_XNOR2_N1_A 2 4 7 10 18 21 24 28 39 48 51 54 57 62 67 72 77 85 Vss
c60 85 Vss 9.00557e-19
c61 77 Vss 0.00241581f
c62 72 Vss 0.00594049f
c63 67 Vss 0.00360869f
c64 62 Vss 0.00199403f
c65 57 Vss 0.00406361f
c66 51 Vss 8.38354e-19
c67 48 Vss 0.124108f
c68 43 Vss 0.0295947f
c69 39 Vss 4.97883e-20
c70 28 Vss 0.152592f
c71 24 Vss 2.44824e-19
c72 21 Vss 0.169386f
c73 18 Vss 0.0714048f
c74 16 Vss 0.0247918f
c75 10 Vss 0.0674191f
c76 7 Vss 0.219196f
c77 4 Vss 0.08397f
r78 81 85 0.653045
r79 62 77 1.16709
r80 62 85 4.9014
r81 57 72 1.16709
r82 57 81 7.87725
r83 51 67 1.16709
r84 51 54 0.0416786
r85 47 72 0.262036
r86 47 48 2.334
r87 44 47 2.20433
r88 39 77 0.404964
r89 33 48 0.00605528
r90 31 44 0.00605528
r91 29 43 0.494161
r92 28 30 0.652036
r93 28 29 4.84305
r94 25 43 0.128424
r95 24 67 0.0476429
r96 22 24 0.326018
r97 22 24 0.1167
r98 21 43 0.494161
r99 21 24 6.7686
r100 18 67 0.357321
r101 16 24 0.326018
r102 16 18 0.40845
r103 10 39 2.04225
r104 7 33 2.5674
r105 7 31 2.5674
r106 7 30 2.5674
r107 4 25 2.5674
r108 2 18 2.15895
.ends

.subckt PM_G4_XNOR2_N1_NET1 2 7 10 31 35 44 49 58 66 Vss
c38 66 Vss 6.40075e-20
c39 58 Vss 0.00598766f
c40 49 Vss 0.00482775f
c41 44 Vss 0.00129308f
c42 35 Vss 0.126399f
c43 31 Vss 0.128923f
c44 10 Vss 0.135805f
c45 7 Vss 0.297098f
c46 2 Vss 0.0015894f
r47 62 66 0.653045
r48 49 58 1.16709
r49 49 66 12.9148
r50 44 62 2.08393
r51 33 35 1.45875
r52 30 58 0.262036
r53 30 31 2.20433
r54 27 30 2.334
r55 25 35 0.259088
r56 24 31 0.00605528
r57 21 33 0.259088
r58 18 27 0.00605528
r59 10 21 4.25955
r60 7 25 5.30985
r61 7 24 2.5674
r62 7 18 2.5674
r63 2 44 1.16709
.ends

.subckt PM_G4_XNOR2_N1_NET2 2 6 9 21 22 33 42 47 56 74 Vss
c50 74 Vss 3.88292e-19
c51 56 Vss 0.00473316f
c52 47 Vss 0.00694068f
c53 42 Vss 0.00195908f
c54 33 Vss 0.123617f
c55 22 Vss 0.0344905f
c56 21 Vss 0.177827f
c57 9 Vss 0.362751f
c58 6 Vss 0.0802803f
c59 2 Vss 0.0015894f
r60 70 74 0.660011
r61 47 56 1.16709
r62 47 74 11.3611
r63 42 70 1.95889
r64 32 56 0.262036
r65 32 33 2.26917
r66 29 32 2.26917
r67 26 33 0.00605528
r68 24 29 0.00605528
r69 21 23 0.652036
r70 21 22 4.84305
r71 18 22 0.652036
r72 9 26 2.5674
r73 9 24 2.5674
r74 9 23 7.4688
r75 6 18 2.5674
r76 2 42 1.16709
.ends

.subckt PM_G4_XNOR2_N1_B 2 4 7 10 19 20 28 33 37 38 48 52 55 58 61 Vss
c37 61 Vss 0.0280185f
c38 55 Vss 9.41292e-19
c39 52 Vss 0.134888f
c40 48 Vss 0.0597924f
c41 38 Vss 0.0333789f
c42 37 Vss 0.090068f
c43 33 Vss 0.0345164f
c44 28 Vss 0.0897381f
c45 20 Vss 0.0343755f
c46 19 Vss 0.169386f
c47 10 Vss 0.155214f
c48 7 Vss 0.216f
c49 4 Vss 0.0714224f
c50 2 Vss 0.0847975f
r51 55 61 1.16709
r52 55 58 0.166714
r53 50 52 4.53833
r54 47 48 1.167
r55 42 52 0.00605528
r56 37 39 0.652036
r57 37 38 2.04225
r58 35 48 0.0685365
r59 34 50 0.00605528
r60 33 38 0.652036
r61 32 47 0.0685365
r62 32 33 1.2837
r63 31 61 0.181909
r64 29 61 0.494161
r65 29 31 0.1167
r66 28 47 0.5835
r67 28 31 3.55935
r68 23 61 0.128424
r69 23 61 0.40845
r70 22 61 0.181909
r71 20 22 6.7686
r72 19 61 0.494161
r73 19 22 0.1167
r74 16 20 0.652036
r75 10 39 5.0181
r76 7 42 2.5674
r77 7 35 2.5674
r78 7 34 2.5674
r79 4 61 2.15895
r80 2 16 2.5674
.ends

.subckt PM_G4_XNOR2_N1_Z 2 4 30 33 Vss
c27 30 Vss 0.00253242f
c28 4 Vss 0.00249005f
c29 2 Vss 0.00153036f
r30 33 35 2.9175
r31 30 33 5.08479
r32 4 35 1.16709
r33 2 30 1.16709
.ends

